US07968538B2
6-Chloro-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)chroman-4-amine
A solution of 6-chloro-N-(5-fluoro-2-(methylsulfonyl)phenyl)chroman-4-amine (143.0 mg, 0.4 mmol), piperazine (694.0 mg, 8.00 mmol) and N,N-diisopropylethylamine (0.52 mL, 4.00 mmol) in acetonitrile (5 mL) was stirred at reflux for 16 h. The reaction mixture was cooled down and concentrated under reduced pressure. The residue was taken up in dichloromethane, washed with water, dried and concentrated in vacuo. The crude product was purified by silica chromatography (5% methanol in dichloromethane) to yield 26.0 mg (15% yield) of desired product. 1H NMR (400 MHz, CD3OD): δ 7.64 (d, 1H) 7.25 (d, 1H), 7.15 (dd, 1H), 6.81 (d, 1H), 6.45 (d, 1H), 6.35 (dd, 1H), 6.20 (d, 1H), 4.65 (m, 1H), 4.26 (m, 2H), 3.31 (m, 4H), 3.03 (m, 4H), 2.98 (s, 3H), 2.18 (m, 2H).

reactant | 6-chloro-N-(5-fluoro-2-(methylsulfonyl)phenyl)chroman-4-amine | 0.4 mmol, 143.0 mg | ClC=1C=C2C(CCOC2=CC1)NC1=C(C=CC(=C1)F)S(=O)(=O)C | C16H15ClFNO3S
reactant | piperazine | 8.00 mmol, 694.0 mg | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 4.00 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6-Chloro-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)chroman-4-amine | 26.0 mg, 15% yield | ClC=1C=C2C(CCOC2=CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C20H24ClN3O3S
